************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: CLKXOR2X8
* View Name:     schematic
* Netlisted on:  Jun  4 07:40:52 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    CLKXOR2X8
* View Name:    schematic
************************************************************************

.SUBCKT CLKXOR2X8 A B VDD VSS Y
*.PININFO A:I B:I VDD:I VSS:I Y:O
Mmn1 n2 B VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 n1 A VSS VSS g45n1svt m=1 l=45n w=145n
Mmn5 Y n0 VSS VSS g45n1svt m=1 l=45n w=2.065u
Mmn3 n0 B net139 VSS g45n1svt m=1 l=45n w=205n
Mmn4 n0 n2 n1 VSS g45n1svt m=1 l=45n w=205n
Mmn2 net139 n1 VSS VSS g45n1svt m=1 l=45n w=205n
Mmp3 n0 n2 net130 VDD g45p1svt m=1 l=45n w=310n
Mmp1 n2 B VDD VDD g45p1svt m=1 l=45n w=215n
Mmp4 n0 B n1 VDD g45p1svt m=1 l=45n w=310n
Mmp0 n1 A VDD VDD g45p1svt m=1 l=45n w=215n
Mmp5 Y n0 VDD VDD g45p1svt m=1 l=45n w=3.115u
Mmp2 net130 n1 VDD VDD g45p1svt m=1 l=45n w=310n
.ENDS

